US07064143B1
To a solution of 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid (0.20 g) in DMF (10 mL) was added TBTU (0.23 g), HOBt (0.11 g) and DIEA (0.27 mL). After 5 min., phenethylamine (0.11 mL) was added and stirring was continued overnight under nitrogen at room temperature. The residue remaining after DMF evaporation was dissolved in EtOAc; washed with dilute HCl, saturated NaHCO3, and brine; dried over MgSO4; and concentrated at reduced pressure to give the intermediate product N-phenethyl 4-benzyloxy-1-methyl-1H-indole-2-carboxyamide (0.18 g) which was used without further purification. Hydrogenation of this product by a method analogous to that described in Example 9 give 0.14 g of the title compound. MS CI (M++H)=295.

reactant | 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid | 0.20 g | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C17H15NO3
reactant | TBTU | 0.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 0.11 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 0.27 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | phenethylamine | 0.11 mL | C(CC1=CC=CC=C1)N | C8H11N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-phenethyl 4-benzyloxy-1-methyl-1H-indole-2-carboxyamide | 0.18 g | C(CC1=CC=CC=C1)NC(=O)CC=1N(C2=CC=CC(=C2C1)OCC1=CC=CC=C1)C | C26H26N2O2
